US08604214B2
Synthesis of 2-(4-Chlorobutoxy)benzo[d]thiazole (K24)
2-hydroxybenzothiazole (0.2 g, 1.32 mmol) and 1-bromo-4-chlorobutane (0.227 g, 1.32 mmol) were reacted in the same manner as in Example 1 to afford the compound K24 (0.302 g, 94%).

reactant | 2-hydroxybenzothiazole | 1.32 mmol, 0.2 g | OC=1SC2=C(N1)C=CC=C2 | C7H5NOS
reactant | 1-bromo-4-chlorobutane | 1.32 mmol, 0.227 g | BrCCCCCl | C4H8BrCl
product | 2-(4-Chlorobutoxy)benzo[d]thiazole | ClCCCCOC=1SC2=C(N1)C=CC=C2 | C11H12ClNOS
